US04751232
Preparation of 3-amino-2,4-dimethylphenol
A mixture of 10 g of 3-acetamido-2,4-dimethylphenol (55.9 mmol), 250 ml of concentrated sulfuric acid and 200 ml of ethanol was refluxed for 30 minutes and, then, concentrated under reduced pressure. The residue was dissolved in water and the solution was made alkaline with ammonia water and extracted with ether. The ether layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate (dehydration) and concentrated under reduced pressure. The residue was recrystallized from ethanolhexane to give 5.3 g (69%) of the title compound as colorless plates, m.p. 177°-179° C.

reactant | 3-acetamido-2,4-dimethylphenol | 55.9 mmol, 10 g | C(C)(=O)NC=1C(=C(C=CC1C)O)C | C10H13NO2
reactant | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-amino-2,4-dimethylphenol | 5.3 g, 69% | NC=1C(=C(C=CC1C)O)C | C8H11NO
